US04007174
2-Triphenylmethoxyimino-2-(thien-2-yl) acetyl chloride (syn isomer)
A solution of triethylammonium 2-triphenylmethoxyimino-2-(thien-2-yl)-acetate (syn isomer) (2.30 g, 4.46 mmole) in dry methylene chloride (50 ml) was cooled to 0° to +5° and stirred whilst oxalyl chloride (0.38 ml, 4.46 mmole) was added. N,N-Dimethylformamide (ca 0.1 ml) was added and the mixture was stirred at 0° to +5° for 21/2 hours. The solvent was evaporated and the residue was stirred with ether (100 ml) for 1 hour, and the suspension then filtered. The filtrate and ether washings (100 ml) were evaporated to give the title compound as a white crystalline solid (1.985 g, quantitative). This acid chloride was used without further purification.

reactant | triethylammonium 2-triphenylmethoxyimino-2-(thien-2-yl)-acetate | 4.46 mmole, 2.30 g | C1(=CC=CC=C1)C(ON=C(C(=O)[O-])C=1SC=CC1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)[NH+](CC)CC
reactant | oxalyl chloride | 4.46 mmole, 0.38 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-Dimethylformamide | ca 0.1 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-Triphenylmethoxyimino-2-(thien-2-yl) acetyl chloride | 1.985 g | C1(=CC=CC=C1)C(ON=C(C(=O)Cl)C=1SC=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H18ClNO2S
